US07811642B2
8.77 g of 4-nitrobenzoic acid (52.5 mM) were dissolved in 400 ml of THF and 53.1 g of triethylamine (525.0 mM). The solution was cooled to −30° C. and 6.01 g of methansulfochloride (52.5 mM) were added dropwise. The mixture was stirred for 1 h at this temperature, then 6.95 g of 4-nitrophenol (50.0 mM) were added at once, followed by 250 mg of DMAP. The reaction mixture was stirred for 1 h at −30° C. and was allowed to warm to room temperature while stirred overnight. The next day, the reaction mixture was filtered, the cake was washed with THF and the filtrate was evaporated to dryness. The residue was purified by chromatography using silica gel and dichloromethane to give 11.0 g (38.2 mM, 76%) of 4-nitrophenyl 4-nitrobenzoate as white crystals.

reactant | 4-nitrobenzoic acid | 52.5 mM, 8.77 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 4-nitrophenol | 50.0 mM, 6.95 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 525.0 mM, 53.1 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 250 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-nitrophenyl 4-nitrobenzoate | 38.2 mM, 11.0 g, 76% | [N+](=O)([O-])C1=CC=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H8N2O6
